US09056874B2
2-((5-Methyl-1-tosyl-7-vinyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile
A solution of 4-(2,2-dibromovinyl)-5-methyl-1-tosyl-7-vinyl-1H-indole (57 mg, 0.115 mmol) and 3,4-diaminobenzonitrile (23 mg, 0.173 mmol) and DABCO (38.7 mg, 0.345 mmol) in NMP (0.5 mL) was stirred at 110° C. After 80 minutes the mixture was slowly cooled to room temperature overnight, and then heated again at 110° C. for 4 hours. The reaction was cooled to room temperature and loaded onto silica gel and purified by flash chromatography (0-100% EtOAc in heptanes) to provide the title compound. MS (ESI+) m/z 467.2 (M+H).

reactant | 4-(2,2-dibromovinyl)-5-methyl-1-tosyl-7-vinyl-1H-indole | 0.115 mmol, 57 mg | BrC(=CC1=C2C=CN(C2=C(C=C1C)C=C)S(=O)(=O)C1=CC=C(C)C=C1)Br | C20H17Br2NO2S
reactant | 3,4-diaminobenzonitrile | 0.173 mmol, 23 mg | NC=1C=C(C#N)C=CC1N | C7H7N3
reactant | DABCO | 0.345 mmol, 38.7 mg | C1CN2CCN1CC2 | C6H12N2
solvent | NMP | 0.5 mL | CN1CCCC1=O | C5H9NO
product | 2-((5-Methyl-1-tosyl-7-vinyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | CC=1C(=C2C=CN(C2=C(C1)C=C)S(=O)(=O)C1=CC=C(C)C=C1)CC1=NC2=C(N1)C=CC(=C2)C#N | C27H22N4O2S
